US09062045B2
2-fluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridine (G.i)
A mixture of 5-bromo-2-fluoropyridine (176 mg, 1.00 mmol), 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (322 mg, 1.00 mmol), Pd(PPh3)4 (115 mg, 0.100 mmol) and Na2CO3 (212 mg, 2.00 mmol) in 1,4-dioxane (5 ml) was bubbled with N2 for 10 min and then stirred at 85° C. for 6 h. After being cooled to rt, the reaction mixture was filtered through celite and the filtrate was diluted with EA. The organic phase was washed with water, brine and dried over anhydrous MgSO4. Filtered and concentrated to afford the title compound (0.206 g, yield 63.6%), which was used in next step without further purification. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.48 (s, 1H), 8.27 (s, 1H), 8.17 (dd, 1H), 7.98 (s, 1H), 7.19 (d, 1H), 4.53 (s, 1H), 4.30 (t, 2H), 3.95 (m, 1H), 3.75 (m, 1H), 3.53 (m, 1H), 3.35 (t, 1H), 1.65 (m, 1H), 1.57 (m, 1H), 1.40 (m, 4H). LCMS (method B): [M+H]+=292, tR=2.16 min.

reactant | 5-bromo-2-fluoropyridine | 1.00 mmol, 176 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.00 mmol, 322 mg | O1C(CCCC1)OCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
reactant | Na2CO3 | 2.00 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.100 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridine | 0.206 g, yield 63.6% | FC1=NC=C(C=C1)C=1C=NN(C1)CCOC1OCCCC1 | C15H18FN3O2
